US05635527
Ethanol (30 ml) was added to 5-cyano-2-benzofurancarboxylic acid (689 mg, 3.68 mmol) and a hydrogen chloride gas was blown in under ice-cooling for 15 minutes and the mixture was stirred at room temperature for 16 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was dissolved in ethanol (25 ml). Benzylamine (1.58 g, 14.7 mmol) was added under ice-cooling and the mixture was stirred for one hour and at room temperature for 2 hours. Low boiling matters were distilled away from the reaction mixture under reduced pressure and the residue was purified by silica gel column chromatography (chloroform/methanol=100/3-4/1) to give 361 mg of ethyl 5-benzylamidino-2-benzofurancarboxylate hydrochloride as a colorless solid (30%).

reactant | 5-cyano-2-benzofurancarboxylic acid | 3.68 mmol, 689 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | hydrogen chloride | Cl | ClH
reactant | Benzylamine | 14.7 mmol, 1.58 g | C(C1=CC=CC=C1)N | C7H9N
reactant | Ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 5-benzylamidino-2-benzofurancarboxylate hydrochloride | 361 mg, 30% | Cl.C(C1=CC=CC=C1)NC(=N)C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | InChI=1S/C19H18N2O3.ClH/c1-2-23-19(22)17-11-15-10-14(8-9-16(15)24-17)18(20)21-12-13-6-4-3-5-7-13;/h3-11H,2,12H2,1H3,(H2,20,21);1H
